US03936458
A mixture of 15 g decahydro-quinaldine dissolved in 200 ml of diethylether and 4 g of sodium hydroxide in 50 ml of water is reacted while stirring and cooling at -5° to 0° with 10 g of phosgene. An ethereal solution of 1-chlorocarbonyl-2-methyl-decahydro-quinoline is obtained. When an aqueous solution of 8.4 g of sodium ethylmercaptide is added to the ethereal solution at room temperature with stirring, 16 g of an almost colorless oil are obtained. The physical constants of this oil coincide with those of the compound of Example 1.

reactant | decahydro-quinaldine | 15 g | N1C(C)CCC2CCCCC12 | C10H19N
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-chlorocarbonyl-2-methyl-decahydro-quinoline | ClC(=O)N1C(CCC2CCCCC12)C | C11H18ClNO
